US04273782
1-(4-Ethoxycarbonylbenzyl)-3-(1-imidazolylmethyl)-5-methoxyindole
This compound was prepared as described in Example 4 using 3-(1-imidazolylmethyl)-5-methoxyindole and ethyl (α-bromo-p-toluate) as starting materials. The fumarate salt hemihydrate had m.p. 113°-114° C. Found: C, 63.10; H, 5.29; N, 7.82. C23H23N3O3.C4H4O4.1/2H2O requires: C, 63.02; H, 5.48; N, 8.16%.

reactant | 3-(1-imidazolylmethyl)-5-methoxyindole | N1C(=NC=C1)CC1=CNC2=CC=C(C=C12)OC | C13H13N3O
reactant | ethyl (α-bromo-p-toluate) | BrCC1=CC=C(C=C1)C(=O)OCC | C10H11BrO2
product | 1-(4-Ethoxycarbonylbenzyl)-3-(1-imidazolylmethyl)-5-methoxyindole | C(C)OC(=O)C1=CC=C(CN2C=C(C3=CC(=CC=C23)OC)CC=2NC=CN2)C=C1 | C23H23N3O3
